Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
birth control
 
Attending: ___.
 
Chief Complaint:
Moyamoya disease
 
Major Surgical or Invasive Procedure:
___ - LEFT CRANIOTOMY FOR ENCEPHALO DURO ARTERIOSYNANGIOSIS 

 
History of Present Illness:
___ is a ___ year old female with known moyamoya disease 
who presented electively on ___ for left burr holes for 
encephaloduroarteriosynangiosis.
 
Past Medical History:
- diabetes mellitus type II
- gastroesophageal reflux
- status post gastric bypass
 
Social History:
___
Family History:
Diabetes mellitus - mother
___ - brother
___ disease - maternal grandmother father
___ c/b seizures - father, passed away at age ___
years ago)
Stomach cancer - paternal grandmother
No known history of epilepsy, early stroke, moyamoya disease,
vasculitides.
 
Physical Exam:
On Discharge:
-------------
Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex
Pupils: Pupils equally round and reactive to light bilaterally
Extraocular Movements: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No     
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trap   Deltoid   Biceps   Triceps   Grip
Right5      5         5        5         5
Left5      5         5        5         5

IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right5    5            5           5    5     5
Left    5    5            5           5    5     5

[x]Sensation intact to light touch

Surgical Dressing: 
[x]Clean, dry, intact
 
Pertinent Results:
Please see ___ Record for relevant laboratory and 
imaging results.
 
Brief Hospital Course:
___ year old female with known moyamoya disease.

#Moyamoya Disease
The patient went to the operating room on ___ for left burr 
holes for encephaloduroarteriosynangiosis. The procedure was 
uncomplicated. Please see separately dictated operative report 
by Dr. ___ further details. The patient was extubated in 
the operating room and recovered in the Post Anesthesia Care 
Unit. She was transferred to the step down unit postoperatively 
for close neurologic monitoring. She remained neurologically 
stable and she was transferred to the floor on ___. She was 
ambulating around the hallways with good steady gait. She was 
subsequently cleared for home in good condition with appropriate 
counseling and follow up.  

#Diabetes Mellitus Type II
The patient's home metformin was held perioperatively. She was 
maintained on subcutaneous sliding scale insulin during this 
time. Her home metformin was restarted on ___.

#Disposition
Patient was ambulating well and fully functional by POD 3 and 
ready for discharge to home.
 
Medications on Admission:
- aspirin delayed release 81mg by mouth once daily
- atorvastatin 40mg by mouth once daily at bedtime
- metformin 500mg by mouth twice daily
- omeprazole delayed release 40mg by mouth twice daily

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*45 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Elective Encephalo-duro-aterio-synangiosis (EDAS) for ___ 
Disease

Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you have:
 
* Any changes in your vision, speech or ability to move your 
arms & legs

* Any swelling, drainage or redness of your incision

* Any problems from your medications like, nausea, vomiting or 
extreme tiredness

* Any temperature higher than 101.5 F degrees

* Headaches that do not go away after taking your prescribed 
medication

Activity: 

* Start to return to your normal daily activities as you are 
able.  Start slowly and increase your activity at your own pace.
* Take special care to remain hydrated before, during, and after 
all activities 

* Do not drive a car or any other motorized vehicle for at least 
10 days after your surgery.  Your nurse practitioner ___ give 
you more information about when you can begin driving again when 
you have your sutures removed.   

Incision Care: 

* Keep your wound clean and dry.
* Do not rub, scratch, scrub or pick at any scabs that are on 
the incision.  
* You need to have your sutures removed ___ days after your 
surgery.  
* Do not use shampoo until after the sutures are removed.
* When you are allowed to shampoo your hair:
   * Let the shampoo run off the incision
   * Gently pat the incision with a towel to dry the area

Physical Issues you may Experience after Surgery:

* You may have constipation or difficulty moving your bowels.  
You can prevent constipation by:
   oDrinking lots of liquids like water and juice
   oIncreasing the amount of fiber you eat.  Fiber is contained 
in vegetables, prunes, fiber-rich breads, cereals and fiber 
supplements
   oExercising
   oUsing over-the-counter laxatives or bowel stimulants such 
as Docusate or Senokot. Stop using these medications if you have 
loose bowel movements or diarrhea

* Fatigue or extreme tiredness that will get better over time

* Numbness or tingling in the area where the incision is 
located.  This feeling may take weeks to months to go away 
completely.

* Muffled hearing in the ear closest to the incision.  

* Low back pain or shooting pain down the legs.  It can get 
better if you are more active. Make sure your clinician is aware 
of these symptoms.

Importance of Hydration after Surgery

* It is imperative that you remain hydrated after surgery
   oRemaining hydrated ensures proper blood volume, allowing 
blood to pass through the bypass without complication

* We recommend drinking approximately 2 liters (about two large 
soda bottles) of fluids a day after the procedure
   oAvoid excessive use of caffeine or alcohol as both can lead 
to the loss of fluids

Lifestyle expectations and changes after surgery:

* You may feel depressed.  Symptoms of depression can include: 
   oFeeling “down” or sad
   oBeing irritable, frustrated or confused
   oFeeling distracted
   oHaving lower self-esteem or relationship challenges
   oBeing unable to sleep or having insomnia
   oFeeling lonely

* If you have any of these symptoms, you can contact your 
Primary Care Provider who can refer you to a Psychologist or 
Psychiatrist. 

* You will be placed on lifelong aspirin after surgery to ensure 
proper blood flow through the bypass
   oIf you have any known side effects while taking aspirin, it 
is important to let your neurosurgeon know

* If you previously took birth control pills you may be asked to 
explore alternative forms of birth control
   oBirth control pills carry a risk of causing blood clots and 
therefore may inhibit blood flow through the bypass

* You should avoid high speed roller coasters, tight fitting 
items around your head and skydiving
   oAll of these activities can alter blood flow in your head, 
potentially disrupting the bypass

Resource: 
h
t
t
p
:
/
/
s
t
a
n
f
o
r
d
h
o
s
p
i
t
al.org/clinicsmedServices/COE/neuro/moyamoyaDisease/patient.html

If you have concerns on the weekends or between the hours of 5 
___ and 8 AM, page the Neurosurgery Clinician who is on call at 
___

 
Followup Instructions:
___